US07700552B2
2-Dimethylamino-thiazole-4-carboxylic acid *HBr (66)
3-Bromopyruvic acid (2.94 g, 17.6 mmol) was added to a stirred solution of 1,1-dimethyl-thiourea (1.87 g, 17.6 mmol) in dry THF (60 mL). The reaction mixture was stirred at rt for 4 hrs. The precipitate that had formed was filtered off, washed with cold THF and dried on high vacuum. LC-MS showed the product peak. The product was obtained as a white solid (2.64 g, 59%).

reactant | 3-Bromopyruvic acid | 17.6 mmol, 2.94 g | BrCC(C(=O)O)=O | C3H3BrO3
reactant | 1,1-dimethyl-thiourea | 17.6 mmol, 1.87 g | CN(C(=S)N)C | C3H8N2S
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-Dimethylamino-thiazole-4-carboxylic acid | 2.64 g, 59% | CN(C=1SC=C(N1)C(=O)O)C | C6H8N2O2S
